US07652049B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4′-fluoro-5′-isopropyl-2′-methoxy-4-methylbiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4-bromo-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one (82.5 mg, 0.13 mmol) in 1,4-dioxane (1 mL) was added trimethylboroxine (39 mg, 0.31 mmol), Pd(PPh3)4 (15 mg, 10 mol %) and potassium carbonate (35 mg, 0.25 mmol). The resulting reaction mixture was purged with nitrogen and sealed in a microwave vessel. The vessel was subject to microwave irradiation at 130° C. for 15 min. The crude mixture was diluted with brine and extracted with EtOAc. The combined organic extracts were dried over Na2SO4. The titled compound was obtained as a glassy material after two preparative TLC plates developed respectively by 20% EtOAc in hexanes and dichloromethane. LC-MS: 584.08 (M+1)+. 1H NMR (CDCl3, 500 MHz) a 1:1 mixture of rotamers δ 7.84 (s, 1H), 7.65-7.70 (m, 2H), 7.29 (s, 0.5), 7.18-7.22 (m, 1.5H), 7.10-7.15 (m, 1H), 7.01 (d, J=8.0 Hz, 0.5H), 6.98 (d, J=8.5 Hz, 0.5H), 6.66 (d, J=5.0 Hz, 0.5H), 6.64 (d, J=5.5 Hz, 0.5H), 5.54 (d, J=8.5 Hz, 0.5H), 5.31 (d, J=8.0 Hz, 0.5H), 4.82 (d, J=15.5 Hz, 1H), 4.02 (d, J=15 Hz, 0.5H), 3.71-3.82 (m, 5H), 3.15-3.24 (m, 1H), 2.42 (s, 1.5H), 2.41 (s, 1.5H), 1.13-1.27 (m, 6H), 0.48 (d, J=6.5 Hz, 1.5H), 0.31 (d, J=6.5 Hz, 1.5H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4-bromo-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | 0.13 mmol, 82.5 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)Br)C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C29H25BrF7NO3
reactant | trimethylboroxine | 0.31 mmol, 39 mg | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 0.25 mmol, 35 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4′-fluoro-5′-isopropyl-2′-methoxy-4-methylbiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C)C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C30H28F7NO3
